** sch_path: /foss/designs/inv.sch
.subckt inv vdd vi vo vss
*.PININFO vdd:B vss:B vi:I vo:O
M1 vo vi vss vss nfet_03v3 L=0.28u W=1u nf=1
M2 vo vi vdd vdd pfet_03v3 L=0.28u W=2u nf=1
.ends
