** sch_path: /foss/designs/dff_set_n.sch
.subckt dff_set_n VDD CLK D Q SET_N VSS
*.PININFO D:I CLK:I SET_N:I Q:O VDD:B VSS:B
x1 CLK VSS net2 net3 VDD net7 tg
x2 net7 VSS D net3 VDD CLK tg
x3 CLK VSS net2 net6 VDD net7 tg
x4 net7 VSS net5 net6 VDD CLK tg
x7 VDD net1 net2 VSS inv
x8 VDD net4 Q VSS inv
x9 VDD net4 net5 VSS inv
x10 VDD CLK net7 VSS inv
x5 VDD net3 net8 net1 VSS nor2
x6 VDD net6 net8 net4 VSS nor2
x11 VDD SET_N net8 VSS inv
.ends

* expanding   symbol:  tg.sym # of pins=6
** sym_path: /foss/designs/tg.sym
** sch_path: /foss/designs/tg.sch
.subckt tg CTRL VSS A B VDD CTRL_B
*.PININFO VDD:B VSS:B A:B B:B CTRL_B:I CTRL:I
M1 A CTRL_B B VDD pfet_03v3 L=0.28u W=1u nf=1
M2 A CTRL B VSS nfet_03v3 L=0.28u W=0.5u nf=1
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/inv.sym
** sch_path: /foss/designs/inv.sch
.subckt inv VDD vin vout VSS
*.PININFO vin:I vout:O VDD:B VSS:B
M1 vout vin VDD VDD pfet_03v3 L=0.28u W=1u nf=1
M2 vout vin VSS VSS nfet_03v3 L=0.28u W=0.5u nf=1
.ends


* expanding   symbol:  nor2.sym # of pins=5
** sym_path: /foss/designs/nor2.sym
** sch_path: /foss/designs/nor2.sch
.subckt nor2 VDD A B Z VSS
*.PININFO VSS:B VDD:B A:I B:I Z:O
M1 Z B net1 VDD pfet_03v3 L=0.28u W=2u nf=1
M2 net1 A VDD VDD pfet_03v3 L=0.28u W=2u nf=1
M3 Z A VSS VSS nfet_03v3 L=0.28u W=0.5u nf=1
M4 Z B VSS VSS nfet_03v3 L=0.28u W=0.5u nf=1
.ends

